US04648898
To a mixture of 2.8 g of 2,4-diamino-6-mercapto-1,3,5-triazine, 5.5 g of potassium carbonate, and 20 ml of N,N-dimethylformamide is added and chlorodifluoromethane gas is aspirated at a temperature of 55°~65° C. for 2 hours in a 100 ml three-necked flask. After cooling, the mixture is mixed with water and extracted with ethyl acetate. The extract is evaported, and the resulting residue is purified by silica-gel chromatography to produce 0.8 g of 2,4-diamino-6-difluoromethylthio-1,3,5-triazine.

reactant | 2,4-diamino-6-mercapto-1,3,5-triazine | 2.8 g | NC1=NC(=NC(=N1)N)S | C3H5N5S
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | water | O | H2O
product | 2,4-diamino-6-difluoromethylthio-1,3,5-triazine | 0.8 g | NC1=NC(=NC(=N1)N)SC(F)F | C4H5F2N5S
